US08703747B2
Step 1: (Benzhydrylamino)(phenyl)methylphosphinic acid
A mixture of 24.95 g (100 mmole) of diphenylmethylamine orthophosphate in 75 ml of anhydrous ethanol is boiled under reflux with stirring. 200 mmole of benzaldehyde in solution in 24 ml of ethanol is added drop by drop in 30 min. The reaction is followed by HPLC. After 2.5 hours, the reaction is returned to ambient temperature. An Et2O/Acetone mixture (75 ml) is added to the mixture. The white precipitate obtained is filtered, washed with water (2×60 ml) and acetone (2×60 ml) and dried. White solid, 20.2 g (60.1%).

reactant | diphenylmethylamine orthophosphate | 100 mmole, 24.95 g | P(=O)(O)(O)O.C1(=CC=CC=C1)C(C1=CC=CC=C1)N
reactant | benzaldehyde | 200 mmole | C(C1=CC=CC=C1)=O | C7H6O
reactant | Et2O Acetone | 75 ml | CCOCC.CC(=O)C
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | ethanol | 24 ml | C(C)O | C2H6O
product | (Benzhydrylamino)(phenyl)methylphosphinic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NP(O)(=O)CC1=CC=CC=C1 | C20H20NO2P
